US07282595B2
5-Methyl-benzo[b]thiophene-2-sulfonamide
5-Methyl-benzo[b]thiophene (220 mg, 1.5 mmol) is dissolved in dry THF (1.5 mL) and cooled to 0° C. To this solution is slowly added 1.6 M n-BuLi in hexane (1.0 mL, 1.6 mmol) and the temperature maintained at 0° C. and the reaction mixture stirred for 20 min. Then the heterogeneous mixture is diluted with 2 mL of THF and transferred by canula to a well-stirred solution of sulfuryl chloride (245 μL, 4.6 mmol) in hexane (1.5 mL) at 0° C. After 1 hr, the suspension is diluted with acetone and the resulting solution of acid chloride is added slowly to a solution of 2 mL of NH4OH in acetone (5 mL). The mixture is diluted with water and acidified with conc. HCl. The aqueous solution is acidified and the product is extracted into ethyl acetate. The organic phase is washed with water and brine, dried (Na2SO4), and evaporated. The crude product is purified by silica gel chromatography (eluent: hexane 3/ethyl acetate 1) to afford the title compound (53 mg, 16%).

reactant | 5-Methyl-benzo[b]thiophene | 1.5 mmol, 220 mg | CC1=CC2=C(SC=C2)C=C1 | C9H8S
reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | sulfuryl chloride | 4.6 mmol, 245 μL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | NH4OH | 2 mL | [NH4+].[OH-]
reactant | HCl | Cl | ClH
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | hexane | 1.5 mL | CCCCCC | C6H14
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | hexane | 1.6 mmol, 1.0 mL | CCCCCC | C6H14
product | 5-Methyl-benzo[b]thiophene-2-sulfonamide | 53 mg, 16% | CC1=CC2=C(SC(=C2)S(=O)(=O)N)C=C1 | C9H9NO2S2
